US07713994B2
6-(1H-Pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione
A mixture of 6-amino-4H-isoquinoline-1,3-dione (1 g, 5.68 mmol), 2,5-dimethoxytetrahydrofuran (0.736 mL, 5.68 mmol), 4-chloropyridine hydrochloride (0.417 g, 2.78 mmol) in dioxane (20 mL) is heated at 70° C. for 2 h [Ref: J. Heterocyclic Chem. 35, 1313, (1998)] After cooling, the solid is filtered, washed successively with water, ether and hexane to yield 0.86 g (67%) of the title compound as a light brown solid, mp 212-213° C.; HRMS (ESI) m/z calcd for C13H10N2O2 227.08151. found 227.08151 (M+H)+1. Analysis for C13H10N2O2 (0.5H2O): Calcd: C, 66.37; H, 4.71; N, 11.91. Found: C, 66.19; H, 4.56; N, 11.09.

reactant | 6-amino-4H-isoquinoline-1,3-dione | 5.68 mmol, 1 g | NC=1C=C2CC(NC(C2=CC1)=O)=O | C9H8N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 5.68 mmol, 0.736 mL | COC1OC(CC1)OC | C6H12O3
reactant | 4-chloropyridine hydrochloride | 2.78 mmol, 0.417 g | Cl.ClC1=CC=NC=C1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-(1H-Pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | 0.86 g, 67% | N1(C=CC=C1)C=1C=C2CC(NC(C2=CC1)=O)=O | C13H10N2O2
